US07759337B2
Synthesis of N-cyclopropyl-4-methyl-3-(1-(3-oxopiperazin-1-yl)phthalazin-6-yl)benzamide
A mixture of 4-(6-bromophthalazin-1-yl)piperazin-2-one (0.10 g, 326 μmol), N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (98mg, 326 μmol), and tetrakis(triphenylphosphine)palladium (19 mg, 16 μmol) in 5 mL DME/EtOH (4:1) was treated with 2M potassium carbonate (488 μl, 977 μmol). The resulting mixture was warmed up to 90° C. and stirred for 1 h under nitrogen. The mixture was cooled to room temperature, and the crude product was purified via flash chromatography (silica gel) eluting with a gradient of 4% 2 M ammonia in MeOH/DCM to 6% 2 M ammonia in MeOH/DCM to give the title compound (0.11 g) as a pale yellow solid. Found MS(ES+): 402(M+H)+.

reactant | 4-(6-bromophthalazin-1-yl)piperazin-2-one | 326 μmol, 0.10 g | BrC=1C=C2C=NN=C(C2=CC1)N1CC(NCC1)=O | C12H11BrN4O
reactant | N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 326 μmol, 98mg | C1(CC1)NC(C1=CC(=C(C=C1)C)B1OC(C(O1)(C)C)(C)C)=O | C17H24BNO3
reactant | potassium carbonate | 977 μmol, 2M, 488 μl | C([O-])([O-])=O.[K+].[K+]
solvent | DME EtOH | 5 mL | COCCOC.CCO
catalyst | tetrakis(triphenylphosphine)palladium | 16 μmol, 19 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-cyclopropyl-4-methyl-3-(1-(3-oxopiperazin-1-yl)phthalazin-6-yl)benzamide | 0.11 g | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)N1CC(NCC1)=O)=O | C23H23N5O2
